US08133995B2
Step 1: Preparation of 6-methylpyrrolo[2,1-f][1,2,4]triazin-4-amine
To a degassed solution of 6-bromopyrrolo[2,1-f][1,2,4]triazin-4-amine (Intermediate AAE) (316 mg, 1.48 mmol) and Bis(diphenylphosphino)ferrocenepalladium dichloride (30 mg, 0.037 mmol) in 1,4-dioxane (10 mL), was added dimethyl zinc (2.97 mL, 5.93 mmol, 2.0 M in toluene). The mixture was allowed to stir at 90° C. for 17 hr and then cooled to 0° C. The reaction was quenched with MeOH (1.0 mL) and partitioned between ethyl acetate (200 mL) and potassium phosphate dibasic pH 10 buffer (100 mL). The layers were separated and the organic phase was washed with brine, dried (Na2SO4), and concentrated to dryness. Trituration with Et2O afforded 175 mg (79%) of the desired product. 1H-NMR (DMSO-d6) δ 7.69 (s, 1H), 7.39 (s, 1H), 6.61 (s, 1H), 2.18 (s, 3H); MS [M+H]+=148.9; LCMS RT=1.16.

reactant | 6-bromopyrrolo[2,1-f][1,2,4]triazin-4-amine | 1.48 mmol, 316 mg | BrC=1C=C2C(=NC=NN2C1)N | C6H5BrN4
reactant | dimethyl zinc | 5.93 mmol, 2.0 M, 2.97 mL | C[Zn]C
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 6-methylpyrrolo[2,1-f][1,2,4]triazin-4-amine | 175 mg, 79% | CC=1C=C2C(=NC=NN2C1)N | C7H8N4
